US05750574
3-Ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione
To a room temperature solution of 5.81 g (34 mmol) of 3,4-diethoxy-3-cyclobutene-1,2-dione and 50 mL of THF was added 2.9 g (34 mmol) of tert-butyl amine. After stirring at room temperature for 12 hours, the reaction mixture was evaporated to a yellow oil. Flash chromatography on silica gel, eluting with 0 to 5% MeOH/CH2Cl2 gave 6.2 g (34 mmol, a 100% yield) of the title compound as a white solid: mp: 80°-82° C.; 1H NMR: (300 MHz, DMSO-d6): δ1.30-1.62 (m, 12H), 4.70-4.93 (m, 2H), 5.50-6.42 (brm, 1H); IR (KBr, cm-1): 3214w, 3144m, 3071w, 2973m, 2941m, 1794m, 1702s, 1606s, 1577s, 1500-1442brs; MS (CI) m/z (relative intensity): 198 (M+H, 100); Anal. Calcd. for C10H15NO3 : C, 60.90; H, 7.67; N, 7.10. Found: C, 61.03; H, 7.66; N, 6.98.

reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 34 mmol, 5.81 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | tert-butyl amine | 34 mmol, 2.9 g | C(C)(C)(C)N | C4H11N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-Ethoxy-4-(tert-butylamino)-cyclobut-3-ene-1,2-dione | 100% yield | C(C)OC=1C(C(C1NC(C)(C)C)=O)=O | C10H15NO3
